US04920116
4-[(Ethylsulfonyl)amino]benzoyl chloride
To 100 mL of thionyl chloride at 0° C. is added 25.1 g (0.1 mol) of 4-[(ethylsulfonyl)amino]benzoic acid sodium salt (prepared from the acid and sodium hydroxide in water and evaporation of solvent) under a nitrogen atmosphere. Reflux the reaction mixture for 24-40 hr. then remove the excess thionyl chloride in vacuo. Dissolve the crude material in tetrahydrofuran, filter through celite and evaporate the solvent to obtain the title compound.

reactant | thionyl chloride | 100 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 4-[(ethylsulfonyl)amino]benzoic acid sodium salt | 0.1 mol, 25.1 g | [Na+].C(C)S(=O)(=O)NC1=CC=C(C(=O)[O-])C=C1
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 4-[(Ethylsulfonyl)amino]benzoyl chloride | C(C)S(=O)(=O)NC1=CC=C(C(=O)Cl)C=C1 | C9H10ClNO3S
